US08486979B2
tert-butyl 3-(3-(pyridin-3-yl)-1,2,4-oxadiazol-5-yl)benzylcarbamate
The title compound was prepared according to the procedure of Example 8 using N′-hydroxynicotinimidamide (Aldrich) and 3-((tert-butoxycarbonylamino)methyl)benzoic acid (Fluka). 1H NMR (300 MHz, DMSO-d6) δ 1.42 (s, 9 H), 4.27 (d, J=6.1 Hz, 2 H), 7.51-7.72 (m, 4 H), 8.01-8.17 (m, 2 H), 8.45 (dt, J=8.1, 1.9 Hz, 1 H), 8.82 (dd, J=5.1, 1.7 Hz, 1H), 9.26 (dd, J=2.2, 0.8 Hz, 1 H) ppm; MS (DCI/NH3) m/z 353 (M+H)+.

reactant | N′-hydroxynicotinimidamide | ON=C(C1=CN=CC=C1)N | C6H7N3O
reactant | 3-((tert-butoxycarbonylamino)methyl)benzoic acid | C(C)(C)(C)OC(=O)NCC=1C=C(C(=O)O)C=CC1 | C13H17NO4
reactant | NH3 | N | H3N
product | tert-butyl 3-(3-(pyridin-3-yl)-1,2,4-oxadiazol-5-yl)benzylcarbamate | N1=CC(=CC=C1)C1=NOC(=N1)C=1C=C(CNC(OC(C)(C)C)=O)C=CC1 | C19H20N4O3
